Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
sudden onset left face and arm numbness
 
Major Surgical or Invasive Procedure:
NA
 
History of Present Illness:
The patient is a ___ year-old right handed man with history of 
VWF D, mild anxiety without hx of panic attack, depression, HPL 
and colon adenoma, presented to the hospital by ambulance after 
an episode of numbness and eye twitching, lasted for 30 to 45 
minutes.

He noted that today he started his day as usual: had 2 coffee at 
5 and 7 am, went to his work and at noon he had his lunch. 
Around ___, while he was sitting at his desk, he started to 
feel twitching around his left eye, with heavyness and numbness 
in his face as if he is back from  dentist office, he started 
chewing and checked his face in the mirror but he did not see 
any droop
in his face and was able to grimace, then it spread to his left 
neck, chest and left upper exterimities in 1 second. He does not 
notice any ___ spreading, and to him it was very fast and 
quick. He felt he could move his arm and in fact did it to get 
rid of the numbness and heaviness, then he felt his heart was 
racing and he could feel it's beats. He started to breath deeply 
to improve his symptoms, but instead he felt light headed with 
tingling in the back of his head. He did not fall, lose his 
consciousness, no nausea, vomiting or shaking movement. As he 
became concern about possible stroke, he called his wife and 
told him about what happened to him,  He denied having the 
similar episode in the past. He does not have hx of seizure 
disorder and has been on Bupropion for years, no hx of migraine 
headache, no recent changes in his
medications or life style.

On neuro ROS, the pt denies headache, loss of vision, blurred
vision, diplopia, dysarthria, dysphagia, lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies difficulties
producing or comprehending speech.  Denies focal weakness,  . No
bowel or bladder incontinence or retention. Denies difficulty
with gait.

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.
 
Past Medical History:
Depression, anxiety, HPL, VWFD syndrome, which is mild.
 
Social History:
___
Family History:
There is no history of seizures, developmental disability,
learning disorders, migraine headaches, strokes less than 50,
neuromuscular disorders, or movement disorders.
 
Physical Exam:
General appearance: Looks well
98.1 80 166/80 18 100% RA 
 
General: Awake, cooperative, no apparent distress. 
HEENT: Normocephalic, atraumatic, with no scleral icterus noted.
Mucus membranes moist, no lesions noted in oropharynx
Neck: Supple.  No carotid bruits appreciated. No orbital bruits. 

Cardiac: Regular rate, normal S1 and S2 no murmurs, rubs or
gallops.  
Pulmonary: Lungs clear to auscultation bilaterally.
Abdomen: Soft and nontender with no hepatosplenomegaly and 
normal
bowel sounds.
Extremities: Warm, well-perfused. Calves soft and non-tender and
good peripheral pulses.
Skin: No lesions or rashes.
Skull & Spine: No spinal tenderness. Good range of motion of 
head
with no pain.
Neck flexion and extension are normal.
 
Neurological examination:
Mental Status:
The patient is alert, fully oriented and attentive. The patient
had good knowledge of current events. Language is fluent with
intact repetition and comprehension and normal prosody. There is
no evidence of aphasia and patient was able to name both high 
and
low frequency objects. There were no paraphasic errors. Speech
was not dysarthric. Patient is able to read without difficulty.
Patient was able to name ___ backward without difficulty.
Memory was intact and patient was able to register3 objects and
recall ___ at 5 minutes. Patient had intact comprehension and 
was
able to follow both midline and appendicular commands normally.
There was no evidence of apraxia or neglect. There is no
left-right agnosia. 

Cranial Nerves:
The sense of smell is not tested.
Visual acuity was ___ in left and ___ in right eye. The
visual fields are full to confrontation. Fundoscopy revealed
normal optic discs and retinal vessels. The pupils react 
normally
to light directly and consensually 3 to 2 mm bilaterally.
Eye movements are normal and saccades are smooth with no 
saccadic
intrusions.
Sensation on the face is intact to light touch. Normal strength
in muscles of mastication.
Facial movements are normal and symmetric and facial power is
full throughout with no evidence of facial weakness.
Hearing is intact to finger rub bilaterally.
The palate elevates in the midline.
Neck rotation, flexion and shoulder shrug are normal and
symmetric.
The tongue protrudes in the midline and is of normal appearance.
Good normal velocity tongue movements.
 
Motor System:
Appearance, tone, power are normal in all 4 limbs. There are no
adventitious movements

Reflexes:
The tendon reflexes are present, symmetric and normal. ___
was negative bilaterally and there was no evidence of clonus. 
The
plantar reflexes are flexor.
 
Sensory System:
Sensation is intact to pin prick, light touch, vibration sense,
and position sense in all extremities and trunk.
 
Coordination:
There is no ataxia. The finger/nose test and heel/shin tests are
performed accurately.
 
Gait and Stance:
The Romberg is negative. Tandem gait walking is normal.
 
Pertinent Results:
admit labs:

___ 04:05PM BLOOD WBC-13.3* RBC-4.82 Hgb-15.0 Hct-44.4 
MCV-92 MCH-31.2 MCHC-33.9 RDW-11.9 Plt ___
___ 04:05PM BLOOD Neuts-78.8* Lymphs-13.7* Monos-6.0 
Eos-1.2 Baso-0.4
___ 03:41AM BLOOD ___ PTT-32.0 ___
___ 04:05PM BLOOD Glucose-89 UreaN-12 Creat-0.8 Na-137 
K-4.4 Cl-100 HCO3-29 AnGap-12

stroke labs:

___ 03:41AM BLOOD ESR-5
___ 03:41AM BLOOD ALT-33 AST-23 CK(CPK)-150
___ 04:05PM BLOOD cTropnT-<0.01
___ 03:41AM BLOOD Albumin-4.2 Calcium-8.8 Phos-4.2 Mg-2.2 
Cholest-227*
___ 03:41AM BLOOD Triglyc-722* HDL-26 CHOL/HD-8.7 
LDLmeas-92
___ 04:05PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

Studies:
CT head ___
Small hypodensity in the left parietal lobe white matter which 
is nonspecific. Differential considerations include 
demyelinating disease, chronic small vessel ischemic disease, 
vasculitis, or infectious process (i.e. Lyme disease). This 
could be further evaluated with MR as clinically indicated. 

CTA head.neck ___
Head CT: There is no evidence of hemorrhage, edema, masses, mass 
effect, or infarction. The ventricles and sulci are normal in 
caliber and configuration. No fractures are identified. 
  
Head and neck CTA: The carotid and vertebral arteries and their 
major branches are patent with no evidence of stenoses. The 
distal cervical internal carotid arteries measure there is no 
evidence of aneurysm formation or other vascular abnormality. 

MRI head with and without ___
Unremarkable enhanced MRI examination of the brain
 
Brief Hospital Course:
Mr ___ is a ___ year-old right handed man with history of 
VWF D, mild anxiety, depression, HPL and colon adenoma who 
presented to the hospital after an
episode of left face and arm numbness and eye twitching which 
lasted for 30 to 45 minutes. This episode was thought to be 
Anxiety and hyperventilation vs TIA in the right parietal lobe 
(right MCA territory). Ddx also included seizure and atypical 
migraine. MRI was negative for acute infarct. Pts labs were 
notable for a ___ of 722. He was started on gemfibrozil and given 
instructions for taking this medications and side effects to be 
aware of given that he is also on a statin. His PCP was also 
made aware of the findings and of his hosptial stay. We will be 
set up with an out patient ECHO with bubble study. No aspirin 
was started given the pt's ___ disease. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion (Sustained Release) 300 mg PO QAM 
2. Pravastatin 80 mg PO DAILY 

 
Discharge Medications:
1. BuPROPion (Sustained Release) 300 mg PO QAM 
2. Pravastatin 80 mg PO DAILY 
3. Fenoglide (fenofibrate) 120 mg oral daily 
RX *fenofibrate [Fenoglide] 120 mg 1 tablet(s) by mouth daily 
Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
presumed TIA
hyperlipidemia
hypertriglyceridemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,
You were hospitalized due to symptoms of face and arm 
numbness/tingling. It is difficult to say exactly what caused 
your symptoms, it is possible that this was a transient ischemic 
attack, a condition in which a blood vessel providing oxygen and 
nutrients to the brain is blocked by a clot for a brief period 
of time. The brain is the part of your body that controls and 
directs all the other parts of your body, so damage to the brain 
from being deprived of its blood supply can result in a variety 
of symptoms.
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
- High cholesterol

We are changing your medications as follows:
- START Fenofibrate 120mg daily 

Please take your other medications as prescribed.
Please followup with Neurology and your primary care physician 
as listed below.
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- sudden partial or complete loss of vision
- sudden loss of the ability to speak words from your mouth
- sudden loss of the ability to understand others speaking to 
you
- sudden weakness of one side of the body
- sudden drooping of one side of the face
- sudden loss of sensation of one side of the body
- sudden difficulty pronouncing words (slurring of speech)
- sudden blurring or doubling of vision
- sudden onset of vertigo (sensation of your environment 
spinning around you)
- sudden clumsiness of the arm and leg on one side or sudden 
tendency to fall to one side (left or right)
- sudden severe headache accompanied by the inability to stay 
awake
It was a pleasure providing you with care during this 
hospitalization.

 
Followup Instructions:
___